US07759518B2
According to the general procedure B, 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene-1,2-diamine (0.182 mmol) was reacted with 2-acetamido-4-methylthiazole-5-sulfonyl chloride (0.5 mmol) to obtain N-(5-(N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)sulfamoyl)-4-methylthiazol-2-yl)acetamide. 1H NMR (CDCl3)) δ 2.1 (s, 3H), 2.2 (s, 3H), 5.9 (dt, 1H), 6.05 (s, 1H), 7.0-7.6 (m, 3H), 7.4 (dd, 1H), 8.0 (s, 1H).

reactant | 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene-1,2-diamine | 0.182 mmol | FC1=CC=C(C(=C1F)NC1=C(C=C(C=C1)I)F)N | C12H8F3IN2
reactant | 2-acetamido-4-methylthiazole-5-sulfonyl chloride | 0.5 mmol | C(C)(=O)NC=1SC(=C(N1)C)S(=O)(=O)Cl | C6H7ClN2O3S2
product | N-(5-(N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)sulfamoyl)-4-methylthiazol-2-yl)acetamide | FC=1C(=C(C=CC1F)NS(=O)(=O)C1=C(N=C(S1)NC(C)=O)C)NC1=C(C=C(C=C1)I)F | C18H14F3IN4O3S2
